US04727082
A solution of 8 g of 5-nitrosalicylaldehyde, 30.8 g of trans-1,4-dichloro-2-butene and 13.2 g of potassium carbonate in 35 ml of dimethylformamide was stirred at room temperature for 19 hours, and further stirred at 80°-87° C. (outside temperature) for 2 hours. The mixture was allowed to cool, poured into 80 ml of water, and extracted with chloroform. The extract (organic layer separated) was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. The product was eluted with benzene to give 5.3 g of 2-[(E)-4-chloro-2-butenyloxy]-5-nitrobenzaldehyde. (mp. 65°-66° C.).

reactant | 5-nitrosalicylaldehyde | 8 g | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | trans-1,4-dichloro-2-butene | 30.8 g | ClC\C=C\CCl | C4H6Cl2
reactant | potassium carbonate | 13.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 80 ml | O | H2O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-[(E)-4-chloro-2-butenyloxy]-5-nitrobenzaldehyde | 5.3 g | ClC/C=C/COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C11H10ClNO4
